US07514457B2
To a THF (25 ml) solution of 1-(1H-1,2,3-benzotriazol-6-yl)ethanone (1.85 g, 11.5 mmol), (R)-(+)-2-methyl-2-propanesulfinylamide (2.30 g, 18.9 mmol) and titanium(IV) ethoxide (25 ml) were added and the mixture was stirred for 24 hours at 70° C. Then, the mixture was cooled to 0° C. and sodium borohydride (1.5 mg, 40 mmol) was added. After stirring for 2 hours, water and EtOH were added to the mixture with stirring for 1 hour at room temperature. Filtration, evaporation gave N-[(1R)-1-(1H-1,2,3-benzotriazol-6-yl)ethyl]-2-methylpropane-2-sulfinamide (MS (ESI) m/z 265 (M−H)−, 267 (M+H)+) which was treated with hydrochloric acid-MeOH (2.0 M, 15.0 ml) and 1,4-dioxane (15.0 ml) for 1.5 hours at room temperature. Then, the reaction mixture was evaporated and diethyl ether was added to form a precipitate, which was collected, washed with diethyl ether to give (1R)-1-(1H-1,2,3-benzotriazol-5-yl)ethanamine hydrochloride (1.26 g, 68%) MS (ESI) m/z 161 (M−H)−

reactant | THF | 25 ml | C1CCOC1 | C4H8O
reactant | 1-(1H-1,2,3-benzotriazol-6-yl)ethanone | 11.5 mmol, 1.85 g | N1N=NC2=C1C=C(C=C2)C(C)=O | C8H7N3O
reactant | (R)-(+)-2-methyl-2-propanesulfinylamide | 18.9 mmol, 2.30 g | CC(C)(C)[S@@](=O)[NH-]
reactant | sodium borohydride | 40 mmol, 1.5 mg | [BH4-].[Na+]
catalyst | titanium(IV) ethoxide | 25 ml | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
solvent | EtOH | CCO | C2H6O
solvent | water | O | H2O
product | N-[(1R)-1-(1H-1,2,3-benzotriazol-6-yl)ethyl]-2-methylpropane-2-sulfinamide | N1N=NC2=C1C=C(C=C2)[C@@H](C)NS(=O)C(C)(C)C | C12H18N4OS
